US07091353B2
A mixture of 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione (1.1 g, 4.0 mmol) and 2-fluorobenzoyl chloride (1.0 mL, 8.4 mmol) in THF (40 mL) was heated to reflux for 15 h. To the mixture was added methanol (10 mL) to give a suspension. The suspension was filtered and washed with methanol (20 mL) to give N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-fluoro-benzamide as a white solid (1.5 g, 93% yield): mp, 300–302° C.; 1H NMR (DMSO-d6) δ 2.05–2.12 (m, 1H, CHH), 2.45–2.65 (m, 2H, CH2), 2.83–2.97 (m, 1H, CHH), 5.18 (dd, J=5.5, 12.9 Hz, 1H, NCH), 7.40–7.49 (m, 2H, Ar), 7.67–7.76 (m, 2H, Ar), 7.88–7.98 (m, 1H, Ar), 8.01–8.05 (m, 1H, Ar), 8.76 (d, J=8.4 Hz, 1H Ar), 10.56 (d, JN-F=10 Hz, 1H, NH), 11.17 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.96, 30.92, 48.97, 116.48, 116.97 (d, JC-F=14 Hz), 118.82, 120.87 (d, JC-F=12 Hz), 125.32 (d, JC-F=1.5 Hz), 125.74, 131.32, 131.39, 134.88 (d, JC-F=9 Hz), 136.22, 136.48, 159.75 (d, JC-F=252 Hz), 161.76 (d, JC-F=7 Hz), 166.58, 168.04, 169.70, 172.71; Anal Calcd for C20H14N3O5F: C, 60.76; H, 3.57; N, 10.63; F, 4.81. Found: C, 60.70; H, 3.64; N, 10.64; F, 4.91.

reactant | 4-amino-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione | 4.0 mmol, 1.1 g | NC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O | C13H11N3O4
reactant | 2-fluorobenzoyl chloride | 8.4 mmol, 1.0 mL | FC1=C(C(=O)Cl)C=CC=C1 | C7H4ClFO
reactant | methanol | 10 mL | CO | CH4O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | N-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-4-yl]-2-fluoro-benzamide | 1.5 g, 93% yield | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)NC(C1=C(C=CC=C1)F)=O)=O)=O | C20H14FN3O5
